US07399759B2
tert-Butyl 3-[2-cyano-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate
tert-Butyl 3-(2,6-dicyano-4-pyridyl)propanoate (1.4 g, 5.5 mmol) and methyl thiosalicylate (1.7 g, 10.1 mmol) were dissolved in toluene (10 ml), and triethylamine (5.0 ml, 35.8 mmol) was added thereto. The mixture was refluxed for 3 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-hexane (2:3, v/v) were collected, concentrated and recrystallized from hexane-tetrahydrofuran to give the titled compound (0.79 g, 36%) as white crystals.

reactant | tert-Butyl 3-(2,6-dicyano-4-pyridyl)propanoate | 5.5 mmol, 1.4 g | C(#N)C1=NC(=CC(=C1)CCC(=O)OC(C)(C)C)C#N | C14H15N3O2
reactant | methyl thiosalicylate | 10.1 mmol, 1.7 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 35.8 mmol, 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 3-[2-cyano-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate | 0.79 g, 36% | C(#N)C1=NC(=CC(=C1)CCC(=O)OC(C)(C)C)C=1SC2=C(C(N1)=O)C=CC=C2 | C21H19N3O3S
